US04384116
1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-3-methyl-piperidine, b.p. 116° C./0.02 Torr is prepared from 1-(2-methyl-3-phenyl-propyl)-3-methyl-piperidine and tert.butanol;

reactant | 1-(2-methyl-3-phenyl-propyl)-3-methyl-piperidine | CC(CN1CC(CCC1)C)CC1=CC=CC=C1 | C16H25N
solvent | tert.butanol | C(C)(C)(C)O | C4H10O
product | 1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-3-methyl-piperidine | C(C)(C)(C)C1=CC=C(C=C1)CC(CN1CC(CCC1)C)C | C20H33N
